US07982071B2
Reaction of 2-(3-(3-hydroxyphenyl)propyl)isoindoline-1,3-dione with 2,2-diethyloxirane following method described in Example 18 gave 2-(3-(3-(2-ethyl-2-hydroxybutoxy)phenyl)propyl)isoindoline-1,3-dione. 1H NMR (400 MHz, CDCl3) δ 7.75-7.88 (m, 4H), 7.06 (t, J=6.8 Hz, 1H), 6.72-6.76 (m, 2H), 6.61 (d, J=8.4 Hz, 1H), 3.74 (s, 2H), 3.69 (t, J=6.4 Hz, 2H), 2.63 (t, J=7.2 Hz, 2H), 1.95-2.05 (m, 2H), 1.61-1.66 (m, 4H), 0.91 (t, J=7.6 Hz, 6H).

reactant | 2-(3-(3-hydroxyphenyl)propyl)isoindoline-1,3-dione | OC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H15NO3
reactant | 2,2-diethyloxirane | C(C)C1(OC1)CC | C6H12O
product | 2-(3-(3-(2-ethyl-2-hydroxybutoxy)phenyl)propyl)isoindoline-1,3-dione | C(C)C(COC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)(CC)O | C23H27NO4
